US08981084B2
6-(3-Methylpiperazin-1-yl)nicotinonitrile
This compound was synthesized from 2-methyl-piperazine and 6-chloronicotinonitrile as described for example 39 step 1 (90 mg, yield 45%). 1H NMR (400 MHz, CDCl3) δ 8.44 (d, J=2.0 Hz, 1H), 7.79 (dd, J=9.2 Hz, J=2.4 Hz, 1H), 6.89 (d, J=9.2 Hz, 1H), 4.24 (t, J=10.2 Hz, 2H), 2.94-2.87 (m, 1H), 2.86-2.77 (m, 1H), 2.63-2.55 (m, 2H), 2.45-2.41 (m, 1H), 0.99 (d, J=6.1 Hz, 3H)

reactant | 2-methyl-piperazine | CC1NCCNC1 | C5H12N2
reactant | 6-chloronicotinonitrile | ClC1=NC=C(C#N)C=C1 | C6H3ClN2
product | 6-(3-Methylpiperazin-1-yl)nicotinonitrile | yield 45% | CC1CN(CCN1)C1=NC=C(C#N)C=C1 | C11H14N4
